US03989685
To a solution of 3β-chloro-3α-methyl-7β-(α-tert. -butoxycarbonylaminophenylacetamido)cepham-4α-carboxylic acid (0.9 g) in methylene chloride (20 ml), is added a solution of diphenyldiazomethane in methylene chloride until the red color or the reaction solution does not disappear. The reaction mixture is evaporated to remove the solvent, leaving a residue of benzhydryl 3β-chloro-3α-methyl-7β-phenylacetamidocepham-4α-carboxylate (1.17 g). Yield: 96%.

reactant | 3β-chloro-3α-methyl-7β-(α-tert. -butoxycarbonylaminophenylacetamido)cepham-4α-carboxylic acid | 0.9 g | Cl[C@@]1(CS[C@H]2N([C@H]1C(=O)O)C([C@H]2NC(C(NC(=O)OC(C)(C)C)C2=CC=CC=C2)=O)=O)C | C21H26ClN3O6S
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 3β-chloro-3α-methyl-7β-phenylacetamidocepham-4α-carboxylate | 1.17 g, Yield: 96% | Cl[C@@]1(CS[C@H]2N([C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C | C29H27ClN2O4S
